US08835420B2
Step A: 6-Bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine
To a solution of 6-bromo-1H-pyrrolo[3,2-b]pyridine (4.0 g, 20.3 mmol) in DMF (40 mL) at 0° C. was added sodium hydride (893 mg, 22.33 mmol). The reaction mixture was stirred at 0° C. for 30 minutes. Next, p-toluensulfonyl chloride (4.64 g, 24.26 mmol) was added, and the reaction mixture was stirred for 1 hour while warming to RT. The reaction mixture was subsequently diluted with DCM (300 mL) and washed with brine. The combined organic layers were dried over MgSO4, concentrated in vacuo, and purified by silica gel chromatography (1% to 2% MeOH/DCM) to give the title compound as a white solid (6.87 g, 96%). 1H NMR (500 MHz, CDCl3) δ ppm 8.58 (d, 1H, J=2.0 Hz), 8.43 (d, 1H, J=2.0 Hz), 7.74-7.78 (m, 3H), 7.29 (d, 2H, J=8.0 Hz), 6.83 (d, 1H, J=4.0 Hz), 2.38 (s, 3H); ESI-MS m/z [M+H]+ calc'd for C14H11BrN2O2S, 351, 353; found 351, 353.

reactant | 6-bromo-1H-pyrrolo[3,2-b]pyridine | 20.3 mmol, 4.0 g | BrC=1C=C2C(=NC1)C=CN2 | C7H5BrN2
reactant | sodium hydride | 22.33 mmol, 893 mg | [H-].[Na+]
reactant | p-toluensulfonyl chloride | 24.26 mmol, 4.64 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-1-tosyl-1H-pyrrolo[3,2-b]pyridine | 6.87 g, 96% | BrC=1C=C2C(=NC1)C=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C14H11BrN2O2S
